US06737435B1
(ii) Methyl-2-azido-3-(2-fluoro-3-benzyloxyphenyl)propenoate
A mixture of methylazidoacetate (36.64 g) and 2-Fluoro-3-benzyloxy benzaldehyde (18.32 g) in methanol (250 ml) was added dropwise, with stirring, over 1 hour to a mixture of sodium methoxide (17.20 g) in methanol (100 ml) at −25° C. under a stream of argon. Mixture was left to stir for 20 minutes, allowed to warm to 5° C. and stirred overnight.

reactant | methylazidoacetate | 36.64 g | COC(CN=[N+]=[N-])=O | C3H5N3O2
reactant | 2-Fluoro-3-benzyloxy benzaldehyde | 18.32 g | FC1=C(C=O)C=CC=C1OCC1=CC=CC=C1 | C14H11FO2
reactant | sodium methoxide | 17.20 g | C[O-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | Methyl-2-azido-3-(2-fluoro-3-benzyloxyphenyl)propenoate | COC(C(=CC1=C(C(=CC=C1)OCC1=CC=CC=C1)F)N=[N+]=[N-])=O | C17H14FN3O3
